US09163008B2
To a mixture of 6-(2-carbamoyl-4-methylpiperazin-1-yl)-2-chloropyrimidine-4-carboxamide (0.300 g, 1.00 mmol) in dioxane (5 mL) was added 4,4,5,5-tetramethyl-2-(4-(4-(trifluoromethyl)phenoxy)phenyl)-1,3,2-dioxaborolane (0.404 g, 1.11 mmol), 2M aqueous Na2CO3 (1.0 mL, 2.0 mmol) and PdCl2(dppf) (0.046 g, 0.056 mmol). The reaction vessel was flushed with argon, sealed and heated at 100° C. overnight. After cooling, the reaction mixture was evaporated in vacuo and the residue chromatographed over silica gel with 0-20% MeOH in acetone. The product fractions were evaporated in vacuo and the residue triturated with 1:1 acetonitrile/MeOH (5 mL). The solid was filtered, washed with MeOH (1×1 mL), and acetonitrile (1×1 mL). An additional batch of material was obtained by evaporation of the filtrates, trituration of the residue with 1:1 acetonitrile/MeOH (2 mL) and washing the solid with MeOH (1×0.5 mL) then acetonitrile (1×0.5 mL). The combined solids were dried under vacuum at 40° C. to give 6-(2-carbamoyl-4-methylpiperazin-1-yl)-2-(4-(4-(trifluoromethyl)phenoxy)phenyl)pyrimidine-4-carboxamide as a very pale tan powder (0.271 g, 0.541 mmol, 54% yield). 1H NMR (400 MHz, CD3OD): 8.57 (2H, d, J=9.0 Hz), 7.71 (2H, d, J=8.6 Hz), 7.39 (1H, s), 7.21 (2H, d, J=8.6 Hz), 7.16 (2H, d, J=9.0 Hz), 5.68-5.23 (1H, br), 4.49-3.93 (1H, br), 3.65-3.54 (1H, m), 3.51-3.43 (1H, m), 3.00-2.93 (1H, m), 2.40 (1H, dd, J=12.1 Hz, 4.6 Hz), 2.34 (3H, s), 2.21 (1H, dt, J=11.8 Hz, 3.5 Hz). LC/MS: m/z=501.1 [M+H]+.

reactant | 6-(2-carbamoyl-4-methylpiperazin-1-yl)-2-chloropyrimidine-4-carboxamide | 1.00 mmol, 0.300 g | C(N)(=O)C1N(CCN(C1)C)C1=CC(=NC(=N1)Cl)C(=O)N | C11H15ClN6O2
reactant | 4,4,5,5-tetramethyl-2-(4-(4-(trifluoromethyl)phenoxy)phenyl)-1,3,2-dioxaborolane | 1.11 mmol, 0.404 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)OC1=CC=C(C=C1)C(F)(F)F)C | C19H20BF3O3
reactant | Na2CO3 | 2.0 mmol, 2M, 1.0 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 0.056 mmol, 0.046 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 6-(2-carbamoyl-4-methylpiperazin-1-yl)-2-(4-(4-(trifluoromethyl)phenoxy)phenyl)pyrimidine-4-carboxamide | C(N)(=O)C1N(CCN(C1)C)C1=CC(=NC(=N1)C1=CC=C(C=C1)OC1=CC=C(C=C1)C(F)(F)F)C(=O)N | C24H23F3N6O3
